US09340510B2
4,6-Dihydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
6.0 g (17 mmol) 6-Benzyloxy-4-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (example XL) in 80 mL THF are hydrogenated (3 bar, r.t.) using 200 mg Pd/C (10%). The reaction mixture is filtered and the solvent is removed in vacuo.

reactant | 6-Benzyloxy-4-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 17 mmol, 6.0 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C(C1)O)OCC1=CC=CC=C1 | C21H25NO4
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 4,6-Dihydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C(C1)O)O | C14H19NO4
